US06350913B1
Step 2: 2-Bromomethyl-4-cyclopentyloxy-1-fluorobenzene (9)
4.81 g of N-bromosuccinimide (27 mmol) and 0.6 g of benzoyl peroxide (2 mmol) are introduced into a solution of 5 g of 4-cyclopentyloxy-1-fluoro-2-methylbenzene (25.8 mmol) in carbon tetrachloride (130 ml). The mixture is heated at 80° C. for 17 hours, a further 2.29 g of N-bromosuccinimide (12.89 mmol) and 0.3 g of benzoyl peroxide (1 mmol) are then added and heating is continued for 12 hours. The mixture is then cooled to room temperature and filtered through Celite. The mother liquor is concentrated and the black oil obtained is purified by chromatography on a column of silica (eluent: 88/12 cyclohexane/ethyl acetate). 4.63 g of an orange oil are obtained:

reactant | N-bromosuccinimide | 27 mmol, 4.81 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 2 mmol, 0.6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 4-cyclopentyloxy-1-fluoro-2-methylbenzene | 25.8 mmol, 5 g | C1(CCCC1)OC1=CC(=C(C=C1)F)C | C12H15FO
reactant | N-bromosuccinimide | 12.89 mmol, 2.29 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 130 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 1 mmol, 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Bromomethyl-4-cyclopentyloxy-1-fluorobenzene | 4.63 g, Yield: 66% | BrCC1=C(C=CC(=C1)OC1CCCC1)F | C12H14BrFO
